US09284331B2
Step 1: rac-9-(1-hydroxypropyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
124-1. A mixture of 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (2.2 g, 6.21 mmol) in dry THF (150 mL) was cooled to −78° C. under Ar, and a 2M solution of iPrMgCl in THF (18.6 mL, 37.3 mmol) was added dropwise. The mixture was stirred at −78° C. for 30 min and propionaldehyde (3.61 g, 62.1 mmol) was then added. The mixture was stirred at −78° C. for another 30 min and then allowed to warm to RT overnight. The reaction mixture was poured onto a saturated aq. solution of NH4Cl and extracted with AcOEt. The combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, heptane to AcOEt/MeOH 9:1) to give the title compound (231 mg). UPLC-MS: MS 287.2 (M+H+); UPLC rt 0.59 min.

reactant | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 6.21 mmol, 2.2 g | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
reactant | iPrMgCl | C(C)(C)[Mg]Cl
reactant | propionaldehyde | 62.1 mmol, 3.61 g | C(CC)=O | C3H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 37.3 mmol, 18.6 mL | C1CCOC1 | C4H8O
product | rac-9-(1-hydroxypropyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 231 mg | OC(CC)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H18N2O3
